US06809199B2
Dissolved N1-{1-[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]-1-methylethyl}-N2-isopropylglycinamide (COMPOUND DDD-4) (53 mg) borane-THF solution (3 mL of a 1M solution). The mixture was brought to and maintained at reflux for 4 h. The mixture was cooled. Aqueous 6N HCl (6 mL) was added and the mixture was heated to 80° C. for 30 min. The reaction was cooled and diluted with ethyl acetate. The aqueous layer was made basic by addition of 2N NaOH. The layers were mixed and then separated. The ethyl acetate layer was washed with aqueous 2N NaOH. The organic layer was dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The product was purified by preparative reverse phase HPLC [Waters Xterra C8 ms 19×50 mm column using a gradient elution of 90% water (+0.1% TFA)/10% CH3CN (+0.1% TFA) to 100% CH3CN (+0.1% TFA) over 12 min at 20 mL/min] giving 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-(1-{[2-(isopropylamino)ethyl]amino}-1-methylethyl)-3,4-dihydroquinazolin-2(1H)-one. Mass spectrum (ESI) 545 (M+1); 547 (M+3).

reactant | N1-{1-[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]-1-methylethyl}-N2-isopropylglycinamide | 53 mg | ClC1=C(C=CC=C1)C1=C2CNC(N(C2=CC(=C1)C(C)(C)NC(CNC(C)C)=O)C1=C(C=CC=C1Cl)Cl)=O | C28H29Cl3N4O2
reactant | borane THF | B.C1CCOC1
reactant | HCl | 6N, 6 mL | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-(1-{[2-(isopropylamino)ethyl]amino}-1-methylethyl)-3,4-dihydroquinazolin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2CNC(N(C2=CC(=C1)C(C)(C)NCCNC(C)C)C1=C(C=CC=C1Cl)Cl)=O | C28H31Cl3N4O
